US04777252
(B) 6,7-Dihydroxy-2,3-quinolinedicarboxylic acid
A suspension of 8.64 g (31.17 mmol) of 6,7-dimethoxy-2,3-quinolinedicarboxylic acid in 125 ml of aqueous hydrogen iodide solution (57%) was refluxed for 3 hours. After cooling, the precipitate was filtered off by suction, washed with water and dried in vacuo to give 4.7 g (60.5%) of desired acid with melting point >300° C.

reactant | 6,7-dimethoxy-2,3-quinolinedicarboxylic acid | 31.17 mmol, 8.64 g | COC=1C=C2C=C(C(=NC2=CC1OC)C(=O)O)C(=O)O | C13H11NO6
solvent | hydrogen iodide | 125 ml | I | HI
product | 6,7-Dihydroxy-2,3-quinolinedicarboxylic acid | 4.7 g, 60.5% | OC=1C=C2C=C(C(=NC2=CC1O)C(=O)O)C(=O)O | C11H7NO6
